US05262565
8-Benzyl-1-methoxynaphthalene
100 g of 8-benzyl-1-naphthol was dissolved in 300 ml of N,N-dimethylformamide to give a solution. 24.2 g of sodium hydride (55% suspension in oil) was added to the solution under cooling with ice. The obtained mixture was stirred at room temperature for 30 minutes. Methyl iodide was added to the resulting mixture under cooling with ice. The obtained mixture was stirred for 30 minutes under cooling with ice and poured onto ice-water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride twice, dried over anhydrous magnesium sulfate and distilled in a vacuum to remove the solvent. The residue was purified by silica gel column chromatography (developer: 5% ethyl acetate/hexane) to give 73 g of the title compound.

reactant | 8-benzyl-1-naphthol | 100 g | C(C1=CC=CC=C1)C=1C=CC=C2C=CC=C(C12)O | C17H14O
reactant | sodium hydride | 24.2 g | [H-].[Na+]
reactant | Methyl iodide | CI | CH3I
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 8-Benzyl-1-methoxynaphthalene | 73 g | C(C1=CC=CC=C1)C=1C=CC=C2C=CC=C(C12)OC | C18H16O
